US07285563B2
N-Benzyl-N′-isoquinolin-5-ylurea
Prepared from 5-aminoisoquinoline and benzyl isocyanate according to the procedure of Description 61. m/z (ES+) 278 (M+H)+.

reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | N-Benzyl-N′-isoquinolin-5-ylurea | C(C1=CC=CC=C1)NC(=O)NC1=C2C=CN=CC2=CC=C1 | C17H15N3O
